US06310203B1
a) 5-[2-(Phenoxythiocarbonyloxy)ethyl]isoxazole-3-carboxylic acid ethyl ester
Pyridine (2.4 g, 31 mmol) was added to a stirred solution of 5-hydroxyethylisoxazole-3-carboxylic acid ethyl ester (4.75 g, 26 mmol) (prepared analogously to Example 64 part a) in dichloromethane (150 ml) under nitrogen at room temperature. The mixture was cooled to 0° C. and phenyl chlorothionoformate (5.3 g, 31 mmol) was added dropwise. The mixture was stirred at 0° C. for 1 hand at room temperature for 2 h, then diluted with dichloromethane (200 ml) and washed with water (×2). The organic layer was dried MgSO4) and evaporated in, vacuo. Flash chromatography of the residue on silica gel, eluting with 20% ethyl acetate/hexane, gave the title-compound (6.7 g, 81%), 1H NMR (250 MHz, CDCl3) δ 1.43 (3H, t, J=7.1 Hz, CH3), 3.37 (2H, t, J=6.3 Hz, CH2), 4.46 (2H, q, J=7.1 Hz, CH2), 4.83 (2H, t, J=6.3 Hz, CH2), 6.60 (1H, s, Ar—H), 7.08-7.11 (2H, m, 2 of Ar—H), 7.29 (1H, m, Ar—H), 7.38-7.46 (2H, m, 2 of Ar—H); MS (ES+) m/e 322 [MH]+, m/e 168 [MH—154]+.

reactant | Pyridine | 31 mmol, 2.4 g | N1=CC=CC=C1 | C5H5N
reactant | 5-hydroxyethylisoxazole-3-carboxylic acid ethyl ester | 26 mmol, 4.75 g | C(C)OC(=O)C1=NOC(=C1)CCO | C8H11NO4
reactant | phenyl chlorothionoformate | 31 mmol, 5.3 g | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-[2-(Phenoxythiocarbonyloxy)ethyl]isoxazole-3-carboxylic acid ethyl ester | 6.7 g, 81% | C(C)OC(=O)C1=NOC(=C1)CCOC(=S)OC1=CC=CC=C1 | C15H15NO5S
